US04282212
1-(N-Cinnamoyl-carbamoyl)-2-cyanoaziridine.
A solution of 0.98 g. 2-cyanoaziridine in 20 ml. toluene is added dropwise, while stirring, at 20° to 30° C. to 2.5 g. cinnamoyl isocyanate dissolved in 20 ml. toluene. The resultant suspension is stirred for 1 hour at ambient temperature, then filtered off with suction and washed with toluene. The crystals obtained are triturated with anhydrous diethyl ether and dried for 1 hour at 50° C. in a vacuum to give 1.9 g. of crude product; m.p. 134°-136° C. This crude product is boiled with 50 ml. ethyl acetate for a short time, mixed with active charcoal and then filtered. The hot ethyl acetate filtrate is evaporated in a vacuum and the evaporation residue triturated with anhydrous diethyl ether. There is thus obtained 1.2 g. 1-(N-cinnamoyl-carbamoyl)-2-cyanoaziridine; m.p. 163°-164° C. The compound is practically insoluble in water but goes into solution upon the addition of excess 2 N aqueous sodium hydroxide solution.

reactant | 2-cyanoaziridine | C(#N)C1NC1 | C3H4N2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | cinnamoyl isocyanate | C(C=CC1=CC=CC=C1)(=O)N=C=O | C10H7NO2
reactant | charcoal | C | CH4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(N-Cinnamoyl-carbamoyl)-2-cyanoaziridine | C(C=CC1=CC=CC=C1)(=O)NC(=O)N1C(C1)C#N | C13H11N3O2
